US09024027B2
To a solution of methyl 2-(6-(methylsulfonamido)-2-oxobenzo[d]oxazol-3(2H)-yl)acetate (300 mg, 0.999 mmol) (prepared in an analogous manner as described in Example 24, Scheme 24, Steps 1, 2, 3) in CH3CN (15 ml), 4-(2-chloroethyl)morpholine hydrochloride (186 mg, 0.999 mmol) and K2CO3 (138 mg, 0.999 mmol) were added. The mixture was heated at 100° C. under microwaves irradiation for 1 hour. The solvent was removed under vacuum, and the residue was portioned between EtOAc and water. The organic phase was washed several times with brine and dried over sodium sulfate; the solvent was evaporated to dryness and the crude was purified by flash chromatography on silica gel (DCM/MeOH 98/2) to afford methyl 2-(6-(N-(2-morpholinoethyl)methylsulfonamido)-2-oxobenzo[d]oxazol-3(2H)-yl)acetate (340 mg, 0.822 mmol, 82% yield, MS/ESI+ 414.0 [MH]+).

reactant | methyl 2-(6-(methylsulfonamido)-2-oxobenzo[d]oxazol-3(2H)-yl)acetate | 0.999 mmol, 300 mg | CS(=O)(=O)NC1=CC2=C(N(C(O2)=O)CC(=O)OC)C=C1 | C11H12N2O6S
reactant | 4-(2-chloroethyl)morpholine hydrochloride | 0.999 mmol, 186 mg | Cl.ClCCN1CCOCC1
reactant | K2CO3 | 0.999 mmol, 138 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | CH3CN | 15 ml | CC#N | C2H3N
product | methyl 2-(6-(N-(2-morpholinoethyl)methylsulfonamido)-2-oxobenzo[d]oxazol-3(2H)-yl)acetate | 0.822 mmol, 340 mg, 82% yield | O1CCN(CC1)CCN(S(=O)(=O)C)C1=CC2=C(N(C(O2)=O)CC(=O)OC)C=C1 | C17H23N3O7S
